US07557125B2
b) N,1-Dimethyl-1H-indazole-3-carboxamide
A suspension of methyl (1-methyl-1H-indazolecarboxylate (3.88 g, 20.4 mmole) in 40% aqueous CH3NH2 (100 mL) and MeOH (5 mL) was stirred at RT for 4 hr. During that time the suspension became a solution. The mixture was concentrated to approximately ⅓ by volume at which time the product precipitated as a pale yellow solid. The solid was collected by filtration, washed with H2O, and dried in vacuo to give the title compound (3.42 g, 89%) which was sufficiently pure for use in the next step: 1H NMR (300 MHz, CDCl3) δ 8.24 (m, 1 H), 7.47 (m, 2 H), 7.34 (m, 1 H), 6.95 (bs, 1 H), 4.19 (s, 3 H), 3.05 (d, J=12.0 Hz, 3 H).

reactant | 1-methyl-1H-indazolecarboxylate | 20.4 mmole, 3.88 g | CN1N=C(C2=CC=CC=C12)C(=O)[O-]
reactant | CH3NH2 | 100 mL | CN | CH5N
solvent | MeOH | 5 mL | CO | CH4O
product | N,1-Dimethyl-1H-indazole-3-carboxamide | 3.42 g, 89% | CNC(=O)C1=NN(C2=CC=CC=C12)C | C10H11N3O
